US08247403B2
(2) 9-[3-(trifluoromethyl)phenyl]-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 9-[3-(trifluoromethyl)phenyl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (210 mg, 0.534 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (4 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (121 mg, 68.8%) as a solid.

reactant | tert-butyl 9-[3-(trifluoromethyl)phenyl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.534 mmol, 210 mg | FC(C=1C=C(C=CC1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C)(F)F | C21H22F3NO3
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 9-[3-(trifluoromethyl)phenyl]-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 121 mg, 68.8% | Cl.FC(C=1C=C(C=CC1)C1=CC=CC=2CNCCOC21)(F)F | InChI=1S/C16H14F3NO.ClH/c17-16(18,19)13-5-1-3-11(9-13)14-6-2-4-12-10-20-7-8-21-15(12)14;/h1-6,9,20H,7-8,10H2;1H
